US07005432B2
3-(2-Methyl-imidazol-1-yl-methyl)-5-(3-trifluoromethyl-phenyl)-pyridazine Hydrochloride
The title compound, MS: m/e=319.4 (M+H+), was prepared from 3-trifluoromethylbenzeneboronic acid (commercially available) and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 3-trifluoromethylbenzeneboronic acid | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 3-(2-Methyl-imidazol-1-yl-methyl)-5-(3-trifluoromethyl-phenyl)-pyridazine Hydrochloride | Cl.CC=1N(C=CN1)CC=1N=NC=C(C1)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C16H13F3N4.ClH/c1-11-20-5-6-23(11)10-15-8-13(9-21-22-15)12-3-2-4-14(7-12)16(17,18)19;/h2-9H,10H2,1H3;1H
